US08633173B2
(2-Methoxy-phenyl)-[8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine was prepared from (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(2-methoxy-phenyl)-amine (50.0 mg, 0.157 mmol) and (4-trifluoromethylphenyl)boronic acid (33.0 mg, 0.174 mmol) with Pd(dppf)Cl2 (0.012 g) as the catalyst in a manner analogous to Step 2e. The reaction product was isolated as a white solid (0.032 g, 53%). MP=184-186° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.49 (dd, J=6.8, 0.9 Hz, 1H), 8.38 (dd, J=8.0, 1.3 Hz, 1H), 8.14 (d, J=8.4 Hz, 2H), 7.78 (d, J=8.3 Hz, 2H), 7.63-7.58 (m, 2H), 7.08-6.88 (m, 4H), 3.92 (s, 3H). MS=385 (MH)+.

reactant | (8-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-(2-methoxy-phenyl)-amine | 0.157 mmol, 50.0 mg | BrC=1C=2N(C=CC1)N=C(N2)NC2=C(C=CC=C2)OC | C13H11BrN4O
reactant | (4-trifluoromethylphenyl)boronic acid | 0.174 mmol, 33.0 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
catalyst | Pd(dppf)Cl2 | 0.012 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (2-Methoxy-phenyl)-[8-(4-trifluoromethyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amine | COC1=C(C=CC=C1)NC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)C(F)(F)F)=N1 | C20H15F3N4O
